* 5F1 (Tweed Champ-style) — DC operating-point netlist
* Circuit Codex — CC-BY-SA 4.0. Independently drawn from published circuit
* facts (see meta.yaml sources); no factory drawing reproduced.
*
* DC conventions (v0, documented in notes.md):
*  - B+1 = 340 V per the published chart (read from the drawing, 2026-07-18).
*  - Downstream nodes are DERIVED by simulation, never asserted.
*  - Output transformer primary DCR omitted (plate node = B+1, as voltage
*    charts conventionally annotate).
*  - Coupling caps omitted (DC open); bypass caps omitted (DC no-ops).
*  - NFB resistor R13 (22k) included: it parallels V1B's cathode at DC
*    through the speaker secondary's ~0 ohm DCR.
.include models/12ax7.inc
.include models/6v6gt.inc

VBP1 BP1 0 DC 340

* power rail droppers
R10 BP1 BP2 10k
R11 BP2 BP3 22k

* V1A input stage
R5  BP3 P1A 100k
XV1A P1A G1A K1A 12AX7
R1  G1A 0 1meg
R4  K1A 0 1.5k

* V1B driver stage (grid returned to ground through 1M volume pot at DC)
R7  BP3 P1B 100k
XV1B P1B G1B K1B 12AX7
RVOL G1B 0 1meg
R6  K1B 0 1.5k
R13 K1B 0 22k

* 6V6GT output stage (plate at B+1, screen at B+2)
XV2 BP1 BP2 G2 K2 6V6GT
R9  G2 0 220k
R8  K2 0 470
